US07414137B2
A 22 L three-necked round bottom flask fitted with an internal temperature probe and a mechanical stirrer was charged with sodium borohydride (221.3 g, 5.85 mol). A 1.75 L portion of 0.25 M sodium hydroxide was added and the mixture was stirred until homogeneous. The solution was cooled to 0-5° C. 2-(4-methoxyphenyl)-thiazolidine-4-carboxylic acid (350.0 g, 1.46 mol) was dissolved in 2.1 L of a 0.62 M K2CO3 aqueous solution. The resulting solution was added to the solution of sodium borohydride while maintaining an internal temperature of below 30° C. The reaction was stirred until HPLC analysis showed no remaining starting material (approximately 1 hour). The reaction was cooled to 0° C. and 700 mL of glacial acetic acid was added with stirring. The final pH of the reaction mixture was approximately 5. The resulting white solid was filtered, washed with 3 L of water and 2.5 L of ethanol, and dried in a vacuum oven at 50° C. for 12 hours. Approximately 240 g of 3-mercapto-2-(4-methoxy-benzylamino)-propionic acid was obtained (68% yield). 1H NMR (300 MHz, DMSO) δ 7.32 (d, 8.9 Hz, 2H), 6.91 (d, 8.9 Hz, 2H), 3.87 (AB, JAB=13.1 Hz, ΔvAB=18.5 Hz, 2H), 3.72 (s, 3H), 3.24 (dd, J=5.3, 5.3 Hz, 1H), 2.76 (d, J=5.7 Hz, 2H).

reactant | sodium borohydride | 5.85 mol, 221.3 g | [BH4-].[Na+]
reactant | sodium hydroxide | 0.25 M | [OH-].[Na+]
reactant | 2-(4-methoxyphenyl)-thiazolidine-4-carboxylic acid | 1.46 mol, 350.0 g | COC1=CC=C(C=C1)C1SCC(N1)C(=O)O | C11H13NO3S
reactant | acetic acid | 700 mL | C(C)(=O)O | C2H4O2
solvent | K2CO3 | 0.62 M | C(=O)([O-])[O-].[K+].[K+]
product | 3-mercapto-2-(4-methoxy-benzylamino)-propionic acid | 240 g, 68% yield | SCC(C(=O)O)NCC1=CC=C(C=C1)OC | C11H15NO3S
